US05266570
N-(1-[9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl]-4-piperidyl)-2-(2-chlorophenyl)acetamide
Using a procedure similar to that described in Example 6 except starting with 4-amino-1-[9,10-dihydro-9,10-methanoanthracen-9-ylmethyl]piperidine and 2-chlorophenylacetic acid, the title compound was obtained as a pink solid (71%), mp 212.0°-14.0° C.; MS(CI): 457 (M+H); NMR (300 MHz,DMSO-d6): 1.38(m, 2H), 1.70(m, 2H), 2.28(m, 2H), 2.46(s, 2H), 2.93(m, 2H), 3.30(m,submerged, 2H), 3.54(m, 3H), 4.31(s, 1H), 6.87-6.96(m, 4H), 7.17-7.41(m, 8H), 7.96(d, 1H, J=7.7 Hz).

reactant | 4-amino-1-[9,10-dihydro-9,10-methanoanthracen-9-ylmethyl]piperidine | NC1CCN(CC1)CC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C21H24N2
reactant | 2-chlorophenylacetic acid | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
product | N-(1-[9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl]-4-piperidyl)-2-(2-chlorophenyl)acetamide | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)NC(CC3=C(C=CC=C3)Cl)=O | C29H29ClN2O
